US06806277B2
1.44 g of sodium borohydride and 0.77 g of molybdenum oxide are added with stirring and under an inert atmosphere, at a temperature in the region of −5° C., to a solution of 2.05 g of methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3-hydroxyimino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate in 100 cm3 of methanol. After 5 hours at a temperature in the region of 20° C., the mixture is concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue is purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45μ; mass 30 g), elution being carried out with a dichloromethane/methanol/triethylamine (89/10/1 by volume) mixture. Fractions 3 to 5 (containing the purified product) are combined and then concentrated to dryness under the above conditions. 0.9 g of methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate is obtained.

reactant | sodium borohydride | 1.44 g | [BH4-].[Na+]
reactant | methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3-hydroxyimino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 2.05 g | FC1=C(C=C(C=C1F)F)C#CCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)=NO)C(=O)OC | C29H28F3N3O4
solvent | methanol | 100 cm3 | CO | CH4O
catalyst | molybdenum oxide | 0.77 g | [Mo]=O
product | methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 0.9 g | FC1=C(C=C(C=C1F)F)C#CCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)N)C(=O)OC | C29H30F3N3O3
